US06982348B2
To a solution of methyl 3-(1,1,2,2-tetrafluoroethoxy)-5-isoxazole carboxylate (1.975 g, 8.124 mmol) in methanol (30 ml) was added sodium borohydride (0.40 g, 10.6 mmol) by small portions under ice-cooling, and the mixture was stirred overnight at room temperature. To the reaction solution was added dilute hydrochloric acid, the mixture was stirred at room temperature for 1 hr and washed three times with ethyl acetate. The recovered organic layer was dried over anhydrous magnesium sulfate, and passed through silica gel. The solvent was evaporated under reduced pressure to give a crude product of [3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]methanol as a yellow liquid (1.72 g).

reactant | methyl 3-(1,1,2,2-tetrafluoroethoxy)-5-isoxazole carboxylate | 8.124 mmol, 1.975 g | FC(C(F)F)(OC1=NOC(=C1)C(=O)OC)F | C7H5F4NO4
reactant | sodium borohydride | 10.6 mmol, 0.40 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | [3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]methanol | 1.72 g | FC(C(F)F)(OC1=NOC(=C1)CO)F | C6H5F4NO3
